US04710502
2-Amino-N-[4-(1H-imidazol-1-yl)butyl]benzamide
A mixture of 1.63 g of isatoic anhydride, 1.39 g of 1H-imidazole-1-butanamine and 25 ml of ethanol was stirred at room temperature for 22 hours. The reaction mixture was concentrated and the residue was dissolved in ethyl acetate and cooled. The desired product was isolated by filtration, mp 91°-93° C.

reactant | isatoic anhydride | 1.63 g | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
reactant | 1H-imidazole-1-butanamine | 1.39 g | N1(C=NC=C1)CCCCN | C7H13N3
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 2-Amino-N-[4-(1H-imidazol-1-yl)butyl]benzamide | NC1=C(C(=O)NCCCCN2C=NC=C2)C=CC=C1 | C14H18N4O
